US05576012
c) 11,14,17,20,23,26,29,32,35-Nonaoxahexa-triacontanyl methacrylate
1.87 g (0.018 mol) of methacrylyl chloride and a small amount of di-t-butylhydroxytoluene in methylene chloride are added to a solution of 8 g (0.0148 mol) of 11,14,17,20,23,26,29,32,35-Nonaoxahexatriacontan-1-ol and 1.82 g (0.018 mol) of triethylamine in 40 ml of methylene chloride at a temperature of -20° C. The mixture is stirred at room temperature for 12 hours, without cooling. The solvent is removed at room temperature and the crude product is worked up by flash chromatography over silica gel 60 (0.040-0.063 mm) using acetone/ether 50:50. The mobile phase is distilled off at room temperature and the product is obtained as a colorless liquid. 1HNMR: 1.2-1.8 ppm (m, 16H, (--CH2)8 --), 1.9 ppm (s, 1H, HO--), 3.4 ppm (s, 3H, --OCH3), 3.7 ppm (m, 34H, --(OCH2CH2)8 --O--),--(CH2)8 --CH2 --O--), 4.2 ppm (m, 2H, --COO--CH2 --CH 2 --), 5.5 ppm (s, 1H, H--CH=C(CH3)--COO--), 6.1 ppm (s, 1H, H--CH=C(CH3)--COO--). IR (film): 1700 cm-1 (C=O), 1620 cm-1 (C=C), 1110 cm-l (C--O).

reactant | methacrylyl chloride | 0.018 mol, 1.87 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | di-t-butylhydroxytoluene | C(C)(C)(C)C1=C(C(=C(C=C1)C)O)C(C)(C)C | C15H24O
reactant | 11,14,17,20,23,26,29,32,35-Nonaoxahexatriacontan-1-ol | 0.0148 mol, 8 g | C(CCCCCCCCCOCCOCCOCCOCCOCCOCCOCCOCCOC)O | C27H56O10
reactant | triethylamine | 0.018 mol, 1.82 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 11,14,17,20,23,26,29,32,35-Nonaoxahexa-triacontanyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCOCCOCCOCCOCCOCCOCCOCCOCCOC | C31H60O11
